US04327102
4-Fluorobenzenethiol (5 g) was added to a solution of sodium hydroxide (3.14 g) in ethanol (50 ml) and the resulting solution was treated with 2-picolyl chloride, hydrochloride (6.4 g) in ethanol (25 ml) and the mixture was stirred for 6 hours at ambient temperature. The mixture was filtered, the solvent removed by evaporation and the residue was converted into the hydrochloride with ethereal HCl. Recrystallisation from ethanol-ether gave 2-(((4-fluorophenyl)thio)methyl)pyridine, hydrochloride (7 g) mp 190°-2° C. (Found: C,56.1; H, 4.4; N,5.2 C12H10FNS.HCl requires C,56.4; H,4.3; N,5.4%).

reactant | 4-Fluorobenzenethiol | 5 g | FC1=CC=C(C=C1)S | C6H5FS
reactant | sodium hydroxide | 3.14 g | [OH-].[Na+]
reactant | 2-picolyl chloride, hydrochloride | 6.4 g | Cl.N1=C(C=CC=C1)CCl
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-(((4-fluorophenyl)thio)methyl)pyridine, hydrochloride | 7 g, 5.4% | Cl.FC1=CC=C(C=C1)SCC1=NC=CC=C1 | InChI=1S/C12H10FNS.ClH/c13-10-4-6-12(7-5-10)15-9-11-3-1-2-8-14-11;/h1-8H,9H2;1H
